US07179912B2
To a suspension of 1-(2,6-dihydroxy-4-morpholin-4-yl-phenyl)-ethanone (86 mg, 0.362 mmol) and K2CO3 (250 mg, 1.81 mmol) in acetone (3 mL) was added nicotinoyl chloride hydrochloride (0.71 mL, 0.399). The reaction vessel was sealed and heated to 85° C. for 24 h. After cooling to room temperature, water (about 2 mL) was added, and the mixture was allowed to stir for about 10 min. The contents were transferred to a separatory funnel containing water (5 mL) and extracted with EtOAc (3×15 mL). The organic layer was dried (MgSO4) and concentrated. The concentrate was purified via Biotage chromatography with gradient elution from 100% hexanes to 100% EtOAc to yield 14 mg (12%) of 5-hydroxy-7-morpholin-4-yl-2-pyridin-3-yl-chromen-4-one. Rf=0.22 (100% EtOAc).

reactant | 1-(2,6-dihydroxy-4-morpholin-4-yl-phenyl)-ethanone | 0.362 mmol, 86 mg | OC1=C(C(=CC(=C1)N1CCOCC1)O)C(C)=O | C12H15NO4
reactant | K2CO3 | 1.81 mmol, 250 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | nicotinoyl chloride hydrochloride | 0.71 mL | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | water | about 2 mL | O | H2O
reactant | water | 5 mL | O | H2O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 5-hydroxy-7-morpholin-4-yl-2-pyridin-3-yl-chromen-4-one | 14 mg, 12% | OC1=C2C(C=C(OC2=CC(=C1)N1CCOCC1)C=1C=NC=CC1)=O | C18H16N2O4
